US05594021
A. 2-(phenylthio)furan
t-BuLi (1.7 m, 10 ml, 1.7 mmol) was added to a solution of furan (1.24 ml, 17 mmol) in 20 ml of THF at -60° C. Thirty minutes later diphenyldisulfide (3.7 g, 17 mmol) was added via cannula in 8 ml of THF. The reaction was warmed to ambient temperature for 30 minutes, then diluted with 150 ml of ether and washed with 3% NaOH (3×100 ml). The organic layer was dried (MgSO4), filtered and concentrated to collect 2.92 g (97% yield) of a light yellow liquid.

reactant | t-BuLi | 1.7 mmol, 10 ml | [Li]C(C)(C)C
reactant | furan | 17 mmol, 1.24 ml | O1C=CC=C1 | C4H4O
reactant | diphenyldisulfide | 17 mmol, 3.7 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | ether | 150 ml | CCOCC | C4H10O
product | 2-(phenylthio)furan | 2.92 g, 97% yield | C1(=CC=CC=C1)SC=1OC=CC1 | C10H8OS
